US04383945
To a solution of methyl 2-{(3S,4R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-2-oxo-4-allylazetidin-1-yl}-3-methylbut-2-enoate (72.9 mg) in acetone (2.03 ml) was added a 0.7 M solution of phosphate buffer (pH 6.8, 1.35 ml) at ambient temperature. To the resulting suspension was added dropwise a solution of sodium periodate (86.0 mg) in water (0.594 ml) at ambient temperature. After stirring for 10 minutes, the reaction mixture was added with sodium periodate (117.2 mg) and potassium permanganate (37.5 mg) and stirred at ambient temperature overnight. The resulting mixture was diluted with water-acetone (15 ml-15 ml) and filtered with celite and the filter cake was washed with water-acetone (1:1). The combined filtrates were concentrated in vacuo at 0° C., acidified to pH 1 with 10% aqueous phosphoric acid, and extracted with chloroform. The organic layer was extracted with chilled 10% aqueous sodium bicarbonate (X3). The aqueous extracts were acidified with 3 N hydrochloric acid and reextracted with chloroform (X3). The chloroform extracts were washed with saturated aqueous sodium chloride containing a small amount of 3 N hydrochloric acid, dried over magnesium sulfate, filtered, and evaporated to give {(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl}acetic acid (36.4 mg) as an amorphous solid.

reactant | methyl 2-{(3S,4R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-2-oxo-4-allylazetidin-1-yl}-3-methylbut-2-enoate | 72.9 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C23H28N2O8
reactant | phosphate | 1.35 ml, pH 6.8 | P(=O)([O-])([O-])[O-]
reactant | sodium periodate | 86.0 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium periodate | 117.2 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | potassium permanganate | 37.5 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | acetone | 2.03 ml | CC(=O)C | C3H6O
solvent | water | 0.594 ml | O | H2O
solvent | water acetone | 15 ml-15 ml | O.CC(=O)C
product | {(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl}acetic acid | 36.4 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1[C@H](NC1=O)CC(=O)O | C16H18N2O8
